2172-10-27 10:16:00 Physician Resident Progress Note
Chief Complaint:  Chest pain, A. fib with RVR
   24 Hour Events:
   Mr. [**Known lastname 2275**] is well known to the MICU green team.  He was admitted
   initially for GI bleed at anastamosis site of prior Bilroth surgery.
   He required 3 units PRBCs but remained hemodynamically stable.  He was
   called out to CC7 two days ago. Since discharge from MICU, patient had
   PICC placed.  Right IJ was pulled.  Hct was stable.  He was not started
   on TPN.
   Prior to Code Blue, patient was lying in bed.  He developed sudden
   substernal crushing chest pain and was noted to be diaphoretic, cool.
   He was noted to have A. fib with RVR.  A code blue was called at 9:30
   AM.  He was given NGLx2 with improvement of chest pain.  He was given
   Lopressor 5 IV x 1 and HR improved to 70s.   He remained
   hemodynamically stable and did not loose a pulse during the event.
   When patient was asked about his code status, he reversed his DNR/DNI.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-25**] 03:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Oxycodone PRN
   Pantoprazole
   Zosyn
   Fluconazole
   Zofran PRN
   Ferrous Sulfate 325 daily
   MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-27**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 97 (97 - 97) bpm
   BP: 126/76(87) {126/76(87) - 126/76(87)} mmHg
   RR: 7 (7 - 7) insp/min
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   153 K/uL
   11.0 g/dL
   113 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   11 mg/dL
   110 mEq/L
   141 mEq/L
   34.6 %
   11.1 K/uL
        [image002.jpg]
                            [**2172-10-22**]  06:31 PM
                            [**2172-10-23**]  03:12 AM
                            [**2172-10-23**]  11:25 AM
                            [**2172-10-23**]  03:13 PM
                            [**2172-10-23**]  08:41 PM
                            [**2172-10-24**]  03:09 AM
                            [**2172-10-24**]  11:44 AM
                            [**2172-10-24**]  07:45 PM
                            [**2172-10-25**]  04:52 AM
                            [**2172-10-25**]  03:53 PM
   WBC
   12.7
   11.5
   11.1
   10.1
   11.1
   Hct
   30.5
   29.0
   32.1
   32.7
   30.3
   32.1
   32.3
   32.6
   32.2
   34.6
   Plt
   110
   105
   114
   119
   153
   Cr
   0.9
   0.9
   0.8
   1.0
   TropT
   0.07
   0.02
   Glucose
   131
   156
   116
   113
   Other labs: PT / PTT / INR:14.0/29.0/1.2, CK / CKMB /
   Troponin-T:88/4/0.02, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   EKG - A. fi b with RVR  to [**Street Address(2) 2276**] depressions in V2-V6
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed from anastamosis site also with
   microperforation of bowel admitted with chest pain in setting of a. fib
   with RVR.
   1.  Chest pain.  Patient developed crushing SSCP in setting of A. fib
   with RVR with HR in 170s.  ST depressions in V1-V6, II, F.    Normal
   Ech on [**2172-10-22**].  Likely demand ischemia in setting of tachycardia.
   High suspicion for cardiac chest pain.
   - serial cardiac enzymes
   - daily EKGs
   - keep HR < 70 with digoxin, standing and prn lopressor
   - nitroglycerin prn SSCP
   - initiate lopressor 12.5 PO BID and uptitrate to keep rate in 70s or
   less
   - start simvastatin
   - consider cards consult if he rules in
   - NPO
   2.  A. fib.  Patient has episode of A. fib with RVR.  Precipitant
   remains unclear though high suspicion for PE given that he has a
   pleuritic element and known significant upper extremity clot burden.
   (Of note, patient has old IVC filter in place).  Has been off HSQ
   during hospital stay due to GIB.  Not on aspirin due to aspirin
   allergy.   Has been getting IVF for NPO status on floor, so less likely
   to be dehydrated.
   - continue digoxin
   - initiate lopressor 12.5 [**Hospital1 **]
   - prn IV lopressor
   - CTA to rule out PE
   - monitor on tele
   3.  UGIB.  Bleeding source may be friability at anastamosis site from
   prior bilroth surgery.  Hct stable.  Now on [**Hospital1 **] PPI IV.  No
   transfusiosn since [**2172-10-23**].  Anticoagulation for PE or ACS will be
   challenging given GI bleed.
   - IV PPI [**Hospital1 **]
   - surgery following
 conservative management
   - Daily hcts, but switch to TID hcts if patient gets anticoagulated
   (pending CTA results)
   - liver following
   - NPO
   .
   4.  Air in mesentery.  Concern for microperforations, per surgery,
   perhaps related to scope trauma from OSH EGD.  NPO for three days now.
   Abominal exam improving, but will continue NPO for now. There was
   discussion about doing TPN given that patient has been NPO for several
   days.
   -          appreciate surgery recs.
   -          NPO for now, consider TPN tomorrow
   .
   5.        B/l upper extremity clots.  Patient has significant clot
   burden, making line placement difficult.  Unable to anticoagulate at
   present due to GIB.  Cachexia, weight loss, and extensive clot burden
   concerning for malignancy.
   -hold on anticoagulation in setting of GI bleed, however, may get
   anticoagulated pending results of PE CT
   - IR consult for possible SVC filter
   - outpatient age appropriate cancer screening
   6.  Abdominal pain.  Patient has chronic abdominal pain secondary to
   pancreatitis, but with concern for microperforation as above.
   - surgery following.
   - NPO for today
   - minimize opioids
   ..
   7. Cirrhosis.  Well compensated cirrhosis, presumed alcoholic related.
   Unclear prior workup.
   - Liver following
   - Collateral information if any, ?need to repeat any workup re:
   etiology
   .
   8.  Anemia.  Anemia work up shows iron deficiency anemia.
   - iron supplementation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  Right picc
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI [**Hospital1 **]
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full CODE, confirmed with patient (DNR/DNI reversed)
   Disposition: ICU
   ------ Protected Section ------
   Patient
s daughter is [**Name (NI) **] [**Name (NI) 2291**].  She is the contact person for his
   ex-wife and two daughters.  [**Name (NI) **] phone number is [**Telephone/Fax (1) 2292**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 2293**] [**Last Name (NamePattern1) 509**], MD
   on:[**2172-10-27**] 15:45 ------

2172-10-27 11:44:00 Physician Attending Progress Note
Chief Complaint: Mr [**Known lastname 2275**] is well known to the MICU green Service,
   please see his admission note from [**10-22**] for details.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo with EtOH Cirrhosis with GIB (thought to be friable Billroth II
   anastomosis) and microperforation of the stomach. He was on floor since
   [**10-25**] and he had been doing requiring no transfusions. He has only been
   on digoxin on the floor. He had 30 beat run of VT over the evening.
   Code Blue [**10-27**] with sub sternal chest pain, in A-fib with RVR
   (160's/min) which responded to metoprolol 5mg IV. He conts to have
   intermittent chest pain with minimal improvement with SL morphine.
   see prev note from [**10-22**] for med hx, fam hx and social hx
   24 Hour Events:
 CALLED OUT
   History obtained from Patient, House officer
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-25**] 03:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-27**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 74 (74 - 97) bpm
   BP: 148/97(108) {126/76(87) - 148/97(108)} mmHg
   RR: 17 (7 - 23) insp/min
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    280 mL
   Urine:
   280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -280 mL
   Respiratory support
   ABG: ////
   Physical Examination
   General Appearance: Thin, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   11.0 g/dL
   153 K/uL
   113 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   11 mg/dL
   110 mEq/L
   141 mEq/L
   34.6 %
   11.1 K/uL
        [image002.jpg]
                            [**2172-10-22**]  06:31 PM
                            [**2172-10-23**]  03:12 AM
                            [**2172-10-23**]  11:25 AM
                            [**2172-10-23**]  03:13 PM
                            [**2172-10-23**]  08:41 PM
                            [**2172-10-24**]  03:09 AM
                            [**2172-10-24**]  11:44 AM
                            [**2172-10-24**]  07:45 PM
                            [**2172-10-25**]  04:52 AM
                            [**2172-10-25**]  03:53 PM
   WBC
   12.7
   11.5
   11.1
   10.1
   11.1
   Hct
   30.5
   29.0
   32.1
   32.7
   30.3
   32.1
   32.3
   32.6
   32.2
   34.6
   Plt
   110
   105
   114
   119
   153
   Cr
   0.9
   0.9
   0.8
   1.0
   TropT
   0.07
   0.02
   Glucose
   131
   156
   116
   113
   Other labs: PT / PTT / INR:14.0/29.0/1.2, CK / CKMB /
   Troponin-T:88/4/0.02, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: TTE [**10-22**]: The left atrium is elongated. Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. Overall left ventricular systolic function is normal
   (LVEF>55%). Tissue Doppler imaging suggests a normal left ventricular
   filling pressure (PCWP<12mmHg). Right ventricular chamber size and free
   wall motion are normal. The aortic valve leaflets (3) are mildly
   thickened but aortic stenosis is not present. No aortic regurgitation
   is seen. The mitral valve appears structurally normal with trivial
   mitral regurgitation. There is no mitral valve prolapse. The pulmonary
   artery systolic pressure could not be determined. There is no
   pericardial effusion.
   CXR [**10-26**]
   ECG: [**10-27**]: Afib with ST depression in v2-V6 which is clearly rate
   related (not present on admit ECG with rate
   Assessment and Plan
   64 yo with hx of EtOH cirrhosis, Afib with RVR with an episode on the
   floor today
   Chest pain: there is a pleuritic chest pain component but also an
   underlying demand component in the setting of A-fib with RVR. His
   previous clot burden puts him at increased risk for PE. We will need to
   empirically anti-coag him despite the increased risk of bleeding given
   that he is at high risk for PE and ACS. We will anti-coagulate with
   plan to image PE protocol CT. Would rate control with metoprolol
   - PE protocol CT scan
   - trend cardiac enzymes
   - beta blocker, hold ASA given aspirin allergy, statin
   - rate control with metoprolol
   - cont digoxin.
   - Hold on IV Heparin given the the multiple episodes of GIB and the
   recent GIB requiring ICU admission. We will consult IR stat for
   placement of an SVC filter in the presence of documented PE.
   Bowel Perf: micro perf being followed by surgery, we will start PO
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-10-27**] 10:13 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-10-28 07:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > CT scan with sub seg PE
   > SVC filter placed
   > PICC exchange
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-28**] 12:20 AM
   Fluconazole - [**2172-10-28**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2172-10-27**] 11:20 AM
   Morphine Sulfate - [**2172-10-27**] 06:00 PM
   Metoprolol - [**2172-10-27**] 06:00 PM
   Pantoprazole (Protonix) - [**2172-10-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-28**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 78 (59 - 121) bpm
   BP: 119/56(74) {100/50(62) - 153/97(108)} mmHg
   RR: 18 (7 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                    947 mL
                                                                    782 mL
   PO:
             TF:
   IVF:
                                                                    947 mL
                                                                    782 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    460 mL
   Urine:
                                                                  1,420 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l) L>R, E>A
   egoph in the right base (about 1/3 up)
   Abdominal: Soft, Bowel sounds present, decreased Tender:
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.9 g/dL
   219 K/uL
   110 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   17 mg/dL
   107 mEq/L
   137 mEq/L
   29.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2172-10-23**]  03:13 PM
                            [**2172-10-23**]  08:41 PM
                            [**2172-10-24**]  03:09 AM
                            [**2172-10-24**]  11:44 AM
                            [**2172-10-24**]  07:45 PM
                            [**2172-10-25**]  04:52 AM
                            [**2172-10-25**]  03:53 PM
                            [**2172-10-27**]  11:22 AM
                            [**2172-10-27**]  10:39 PM
                            [**2172-10-28**]  03:59 AM
   WBC
   11.1
   10.1
   11.1
   14.2
   19.5
   14.4
   Hct
   32.7
   30.3
   32.1
   32.3
   32.6
   32.2
   34.6
   32.3
   27.3
   29.2
   Plt
   114
   119
   153
   [**Telephone/Fax (3) 2303**]
   Cr
   0.8
   1.0
   1.1
   1.2
   TropT
   0.04
   0.05
   0.05
   Glucose
   116
   113
   115
   110
   Other labs: PT / PTT / INR:14.8/28.9/1.3, CK / CKMB /
   Troponin-T:45/4/0.05, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   TTE [**10-27**]: Due to suboptimal technical quality, a focal wall motion
   abnormality cannot be fully excluded. Overall left ventricular systolic
   function is normal (LVEF>55%). Right ventricular chamber size and free
   wall motion are normal. The aortic valve leaflets are moderately
   thickened. Trace aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. The tricuspid valve leaflets are mildly
   thickened. The estimated pulmonary artery systolic pressure is normal.
   IMPRESSION: Suboptimal image quality. Focused views. Normal right
   ventricular size and function. Overall normal left ventricular
   function.
   Compared with the prior study (images reviewed) of [**2172-10-22**], right
   ventricular size and function are similar. The images are suboptimal
   for comparison.
   Assessment and Plan
   64 yo with hx of EtOH cirrhosis, Afib with RVR with an episode on the
   floor and pleuritic chest pain with known upper extremity clot burden
   whose hx is complicated by the presence of GI bleed. He was found to
   have small sub seg PE and had a SVC filter placed. Although initially
   concerned for ACS, his enzymes were flat and his ECG changes appear to
   be rate related.
    >Chest pain: likely [**1-11**] combined effects of small PE as well as rate
   related Afib with RVR leading to demand. For now we are deferring
   anti-coagulation, after discussion with GI they feel it would be
   reasonable to attempt long term anti coag on [**11-5**] (2 weeks after
   bleed), he has multiple indications for long term anti coag including
   DVT, PE and paroxysmal Afib. We will cont to optimize rate control and
   medical management for what is likely to be at least in some part CAD.
   - finish 24h cardiac enzymes
   - beta blocker, hold ASA given aspirin allergy, statin
   - rate control with metoprolol
   - cont digoxin.
   - F/u ECG today
    >Bowel Perf: micro perf being followed by surgery, we will start PO
   slowly.
   > GI bleed: Hct stable, will d/w GI re: re-look from an endoscopy.
   ICU Care
   Nutrition:
   Advance diet as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-10-27**] 10:13 AM
   Prophylaxis:
   DVT: Boots deferring anti-coag
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor
   Total time spent: 35 minutes

2172-10-28 07:53:00 Physician Resident Progress Note
Chief Complaint: chest pain, a. fib with RVR
   24 Hour Events:
   - Access nightmare.
   - After much to-do, had PICC exchanged for a neater one with peripheral
   port.
   - CTA prelim read with small subsegmental bilateral PEs; also some
   peripheral parenchymal opacities, unclear etiology.
   - SVC filter placed.  No heparin gtt.
   - Enzymes flat thus far; this AM's pending.
   - Weaned off nitro.
   - Actually brady to high 40s while asleep.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-28**] 12:20 AM
   Fluconazole - [**2172-10-28**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2172-10-27**] 11:20 AM
   Morphine Sulfate - [**2172-10-27**] 06:00 PM
   Metoprolol - [**2172-10-27**] 06:00 PM
   Pantoprazole (Protonix) - [**2172-10-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-28**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 78 (59 - 121) bpm
   BP: 119/56(74) {100/50(62) - 153/97(108)} mmHg
   RR: 18 (7 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                    947 mL
                                                                    799 mL
   PO:
             TF:
   IVF:
                                                                    947 mL
                                                                    799 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    460 mL
   Urine:
                                                                  1,420 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin, cachectic, temporal
   wasting
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): x3, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   219 K/uL
   9.9 g/dL
   110 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   17 mg/dL
   107 mEq/L
   137 mEq/L
   29.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2172-10-23**]  03:13 PM
                            [**2172-10-23**]  08:41 PM
                            [**2172-10-24**]  03:09 AM
                            [**2172-10-24**]  11:44 AM
                            [**2172-10-24**]  07:45 PM
                            [**2172-10-25**]  04:52 AM
                            [**2172-10-25**]  03:53 PM
                            [**2172-10-27**]  11:22 AM
                            [**2172-10-27**]  10:39 PM
                            [**2172-10-28**]  03:59 AM
   WBC
   11.1
   10.1
   11.1
   14.2
   19.5
   14.4
   Hct
   32.7
   30.3
   32.1
   32.3
   32.6
   32.2
   34.6
   32.3
   27.3
   29.2
   Plt
   114
   119
   153
   [**Telephone/Fax (3) 2303**]
   Cr
   0.8
   1.0
   1.1
   1.2
   TropT
   0.04
   0.05
   0.05
   Glucose
   116
   113
   115
   110
   Other labs: PT / PTT / INR:14.8/28.9/1.3, CK / CKMB /
   Troponin-T:45/4/0.05, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed from anastamosis site also with
   microperforation of bowel admitted with chest pain in setting of a. fib
   with RVR.
   1.  Chest pain.  Patient developed crushing SSCP in setting of A. fib
   with RVR with HR in 170s.  ST depressions in V1-V6, II, F.    Normal
   Ech on [**2172-10-22**].  Likely demand ischemia in setting of tachycardia.
   High suspicion for cardiac chest pain.
   - serial cardiac enzymes
   - daily EKGs
   - keep HR < 70 with digoxin, standing and prn lopressor
   - nitroglycerin prn SSCP
   - initiate lopressor 12.5 PO BID and uptitrate to keep rate in 70s or
   less
   - start simvastatin
   - consider cards consult if he rules in
   - NPO
   2.  A. fib.  Patient has episode of A. fib with RVR.  Precipitant
   remains unclear though high suspicion for PE given that he has a
   pleuritic element and known significant upper extremity clot burden.
   (Of note, patient has old IVC filter in place).  Has been off HSQ
   during hospital stay due to GIB.  Not on aspirin due to aspirin
   allergy.   Has been getting IVF for NPO status on floor, so less likely
   to be dehydrated.
   - continue digoxin
   - initiate lopressor 12.5 [**Hospital1 **]
   - prn IV lopressor
   - CTA to rule out PE
   - monitor on tele
   3.  UGIB.  Bleeding source may be friability at anastamosis site from
   prior bilroth surgery.  Hct stable.  Now on [**Hospital1 **] PPI IV.  No
   transfusiosn since [**2172-10-23**].  Anticoagulation for PE or ACS will be
   challenging given GI bleed.
   - IV PPI [**Hospital1 **]
   - surgery following
 conservative management
   - Daily hcts, but switch to TID hcts if patient gets anticoagulated
   (pending CTA results)
   - liver following
   - NPO
   .
   4.  Air in mesentery.  Concern for microperforations, per surgery,
   perhaps related to scope trauma from OSH EGD.  NPO for three days now.
   Abominal exam improving, but will continue NPO for now. There was
   discussion about doing TPN given that patient has been NPO for several
   days.
   -          appreciate surgery recs.
   -          NPO for now, consider TPN tomorrow
   .
   5.        B/l upper extremity clots.  Patient has significant clot
   burden, making line placement difficult.  Unable to anticoagulate at
   present due to GIB.  Cachexia, weight loss, and extensive clot burden
   concerning for malignancy.
   -hold on anticoagulation in setting of GI bleed, however, may get
   anticoagulated pending results of PE CT
   - IR consult for possible SVC filter
   - outpatient age appropriate cancer screening
   6.  Abdominal pain.  Patient has chronic abdominal pain secondary to
   pancreatitis, but with concern for microperforation as above.
   - surgery following.
   - NPO for today
   - minimize opioids
   ..
   7. Cirrhosis.  Well compensated cirrhosis, presumed alcoholic related.
   Unclear prior workup.
   - Liver following
   - Collateral information if any, ?need to repeat any workup re:
   etiology
   .
   8.  Anemia.  Anemia work up shows iron deficiency anemia.
   - iron supplementation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-10-27**] 10:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2172-10-29 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-29**] 12:00 AM
   Fluconazole - [**2172-10-29**] 06:26 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-10-28**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-29**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 75 (61 - 90) bpm
   BP: 121/63(75) {113/55(71) - 172/89(105)} mmHg
   RR: 18 (18 - 18) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,568 mL
                                                                    375 mL
   PO:
                                                                    780 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,788 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    965 mL
   Urine:
                                                                  1,115 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,453 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.2 g/dL
   250 K/uL
   85 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.2 mEq/L
   12 mg/dL
   108 mEq/L
   139 mEq/L
   26.9 %
   11.4 K/uL
        [image002.jpg]
                            [**2172-10-24**]  11:44 AM
                            [**2172-10-24**]  07:45 PM
                            [**2172-10-25**]  04:52 AM
                            [**2172-10-25**]  03:53 PM
                            [**2172-10-27**]  11:22 AM
                            [**2172-10-27**]  10:39 PM
                            [**2172-10-28**]  03:59 AM
                            [**2172-10-28**]  05:54 PM
                            [**2172-10-28**]  08:29 PM
                            [**2172-10-29**]  03:27 AM
   WBC
   11.1
   14.2
   19.5
   14.4
   12.8
   11.4
   Hct
   32.3
   32.6
   32.2
   34.6
   32.3
   27.3
   29.2
   26.8
   29.1
   26.9
   Plt
   153
   217
   195
   [**Telephone/Fax (3) 2324**]
   Cr
   1.0
   1.1
   1.2
   1.1
   TropT
   0.04
   0.05
   0.05
   Glucose
   113
   115
   110
   85
   Other labs: PT / PTT / INR:14.8/28.5/1.3, CK / CKMB /
   Troponin-T:43/4/0.05, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   64 yo with hx of EtOH cirrhosis, Afib with RVR with an episode on the
   floor and pleuritic chest pain with known upper extremity clot burden
   whose hx is complicated by the presence of GI bleed. He was found to
   have small sub seg PE and had a SVC filter placed. Although initially
   concerned for ACS, his enzymes were flat and his ECG changes appear to
   be rate related.
    >Chest pain: likely [**1-11**] combined effects of small PE as well as rate
   related Afib with RVR leading to demand. For now we are deferring
   anti-coagulation, after discussion with GI they feel it would be
   reasonable to attempt long term anti coag on [**11-5**] (2 weeks after
   bleed), he has multiple indications for long term anti coag including
   DVT, PE and paroxysmal Afib. For now he has SVC and IVC filter.  We
   will cont to optimize rate control and medical management for what is
   likely to be at least in some part CAD.
   - beta blocker, hold ASA given aspirin allergy, statin
   - rate control with metoprolol
   - cont digoxin.
    >Bowel Perf: micro perf being followed by surgery, we will start PO
   slowly. He is on prophylactic Abx per surgery team and we will discuss
   a D/c date
   > GI bleed: Hct stable, he did have a dark maroon stool (not bright
   red). His Hct fluctuated b/w 26 and 29. Will discuss with GI whether he
   merits a repeat endoscopy.
   ICU Care
   Nutrition:
   Advance diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-10-27**] 10:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2172-10-29 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had maroon colored stools and hct drop, so i kept him for the night.
   Repeat Hct was not significantly down.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-29**] 12:00 AM
   Fluconazole - [**2172-10-29**] 06:26 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-10-28**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-29**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 75 (61 - 90) bpm
   BP: 121/63(75) {113/55(71) - 172/89(105)} mmHg
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,568 mL
                                                                    378 mL
   PO:
                                                                    780 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,788 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    965 mL
   Urine:
                                                                  1,115 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,453 mL
                                                                   -587 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   250 K/uL
   9.2 g/dL
   85 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.2 mEq/L
   12 mg/dL
   108 mEq/L
   139 mEq/L
   26.9 %
   11.4 K/uL
        [image002.jpg]
                            [**2172-10-24**]  11:44 AM
                            [**2172-10-24**]  07:45 PM
                            [**2172-10-25**]  04:52 AM
                            [**2172-10-25**]  03:53 PM
                            [**2172-10-27**]  11:22 AM
                            [**2172-10-27**]  10:39 PM
                            [**2172-10-28**]  03:59 AM
                            [**2172-10-28**]  05:54 PM
                            [**2172-10-28**]  08:29 PM
                            [**2172-10-29**]  03:27 AM
   WBC
   11.1
   14.2
   19.5
   14.4
   12.8
   11.4
   Hct
   32.3
   32.6
   32.2
   34.6
   32.3
   27.3
   29.2
   26.8
   29.1
   26.9
   Plt
   153
   217
   195
   [**Telephone/Fax (3) 2324**]
   Cr
   1.0
   1.1
   1.2
   1.1
   TropT
   0.04
   0.05
   0.05
   Glucose
   113
   115
   110
   85
   Other labs: PT / PTT / INR:14.8/28.5/1.3, CK / CKMB /
   Troponin-T:43/4/0.05, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed from anastamosis site also with
   microperforation of bowel admitted with chest pain in setting of a. fib
   with RVR  and found to have b/l subsegmental PEs.
   1.  PE.  Patient found to have bilateral subsegmental PEs.  SVC filter
   placed today due to known b/l upper extremity thrombus. Pleuritic chest
   pain likely due to showering of peripheral thrombi.  Cannot get
   anticoagulated due to recurrent GI bleeds, but would consider if stable
   over two weeks.
   - SVC and IVC filter in place
   - no anticoagulation for now
   2.  Chest pain.  Patient developed crushing SSCP in setting of A. fib
   with RVR with HR in 170s with st depressions on EKG.  Cardiac enzymes
   negative.  Likely demand ischemia in setting of tachycardia.
   - daily EKGs
   - keep HR < 70 with digoxin, standing and lopressor
   - nitroglycerin prn SSCP
   - uptitrate lopressor
   - continue simvastatin
   3.  A. fib.  Patient has episode of A. fib with RVR perhaps triggered
   by PE.  Now well rate controlled in 60s after intiation of lopressor.
   - continue digoxin
   - uptitrate lopressor
   - monitor on tele
   - no anticoagulation given GIB
   3.  UGIB.  Bleeding source may be friability at anastamosis site from
   prior bilroth surgery.  Hct stable.  Now on [**Hospital1 **] PPI IV.  No
   transfusiosn since [**2172-10-23**].
   -PO PPI [**Hospital1 **]
   - surgery following
 conservative management
   - Daily hcts
   - liver following
   - NPO
   .
   4.  Air in mesentery.  Concern for microperforations, per surgery,
   perhaps related to scope trauma from OSH EGD.  NPO for three days now.
   Abominal exam improving so will advance to clear diet.
   -          appreciate surgery recs.
   -          Advance diet to clears
   -          Continue fluconazole/zosyn but will need to discuss course
   with surgery
   5.        B/l upper extremity clots.  Patient has significant clot
   burden, making line placement difficult.  Unable to anticoagulate at
   present due to GIB.  Cachexia, weight loss, and extensive clot burden
   concerning for malignancy.
   -hold on anticoagulation in setting of GI bleed,
   - SVC filter placed yesterday
   - outpatient age appropriate cancer screening
   6.  Abdominal pain.  Patient has chronic abdominal pain secondary to
   pancreatitis, but with concern for microperforation as above.
   - surgery following.
   - clear diet
   7. Cirrhosis.  Well compensated cirrhosis, presumed alcoholic related.
   Unclear prior workup.
   - Liver following
   8.  Anemia.  Anemia work up shows iron deficiency anemia.
   - iron supplementation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-10-27**] 10:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2172-10-30 07:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2172-10-29**] 06:04 PM: no evidence of bleeding or
   varices
   > Run of VT this AM
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2172-10-29**] 06:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-30**] 12:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-10-29**] 12:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-30**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 94 (64 - 98) bpm
   BP: 135/88(99) {110/50(66) - 147/88(110)} mmHg
   RR: 25 (13 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,987 mL
                                                                    177 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,387 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                  1,250 mL
   Urine:
                                                                  1,845 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    142 mL
                                                                 -1,073 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.7 g/dL
   290 K/uL
   123 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   12 mg/dL
   112 mEq/L
   143 mEq/L
   29.2 %
   10.9 K/uL
        [image002.jpg]
                            [**2172-10-25**]  03:53 PM
                            [**2172-10-27**]  11:22 AM
                            [**2172-10-27**]  10:39 PM
                            [**2172-10-28**]  03:59 AM
                            [**2172-10-28**]  05:54 PM
                            [**2172-10-28**]  08:29 PM
                            [**2172-10-29**]  03:27 AM
                            [**2172-10-29**]  12:59 PM
                            [**2172-10-29**]  08:54 PM
                            [**2172-10-30**]  04:44 AM
   WBC
   14.2
   19.5
   14.4
   12.8
   11.4
   10.0
   10.9
   Hct
   34.6
   32.3
   27.3
   29.2
   26.8
   29.1
   26.9
   26.6
   26.0
   29.2
   Plt
   [**Telephone/Fax (3) 2337**]
   290
   Cr
   1.1
   1.2
   1.1
   1.2
   TropT
   0.04
   0.05
   0.05
   Glucose
   115
   110
   85
   123
   Other labs: PT / PTT / INR:14.6/28.6/1.3, CK / CKMB /
   Troponin-T:43/4/0.05, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   ECG  [**10-30**]: A-fib with improved ST depression.
   Assessment and Plan
   64 yo with hx of EtOH cirrhosis, Afib with RVR with an episode on the
   floor and pleuritic chest pain with known upper extremity clot burden
   whose hx is complicated by the presence of GI bleed. He was found to
   have small sub seg PE and had a SVC filter placed. Although initially
   concerned for ACS, his enzymes were flat and his ECG changes appear to
   be rate related. He had repeat endoscopy on [**10-29**] which revealed no
   additional bleeding.
   >Chest pain: likely [**1-11**] combined effects of small PE as well as rate
   related Afib with RVR leading to demand. For now we are deferring
   anti-coagulation, after discussion with GI they feel it would be
   reasonable to attempt long term anti coag on [**11-5**] (2 weeks after
   bleed), he has multiple indications for long term anti coag including
   DVT, PE and paroxysmal Afib. For now he has SVC and IVC filte but in a
   few weeks will need to re-consider the question of anti-coagulation
   targeting INR 1.8.  We will cont to optimize rate control and medical
   management for what is likely to be at least in some part CAD.
   - beta blocker, hold ASA given aspirin allergy, statin
   - rate control with metoprolol
   - cont digoxin.
   >Afib/VT:run of VT this AM will cont to optimize electrolytes Mg/K and
   rate/ryth control with digox and metop
   >Bowel Perf: micro perf being followed by surgery, we will start PO
   slowly. We have stopped Abx [**10-30**].
    > GI bleed: Hct stable, he did have a dark maroon stool (not bright
   red)[**10-29**]. His Hct fluctuated b/w 26 and 29. Repat endoscopy11/20
   revealed no additional bleeding and his Hct has been stable . Notably
   he had a normal gastrin level.  GI is discussing timing of potential
   colonoscopy
   Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-10-27**] 10:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2172-10-30 07:52:00 Physician Resident Progress Note
Chief Complaint: Afib/RVR; chest pain
   24 Hour Events:
 ENDOSCOPY - At [**2172-10-29**] 06:04 PM
   - EGD by GI for assessment of GIB - no varices identified, otherwise
   clean scope.  Plan for c-scope within next two days.
   - hct trend 26.9 --> scope --> 26 --> 29
   Feels well, no complaints.  Denies abdominal, chest pain.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2172-10-29**] 06:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-10-30**] 12:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-10-29**] 12:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-30**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 94 (64 - 98) bpm
   BP: 135/88(99) {110/50(66) - 147/88(110)} mmHg
   RR: 25 (13 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,987 mL
                                                                    178 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,387 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                  1,250 mL
   Urine:
                                                                  1,845 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    142 mL
                                                                 -1,072 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal) no murmurs appreciated.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended,
   Extremities: unchanged edema in LE; Upper extremities with improving
   edema (especially on left)
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   290 K/uL
   9.7 g/dL
   123 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   12 mg/dL
   112 mEq/L
   143 mEq/L
   29.2 %
   10.9 K/uL
        [image002.jpg]
                            [**2172-10-25**]  03:53 PM
                            [**2172-10-27**]  11:22 AM
                            [**2172-10-27**]  10:39 PM
                            [**2172-10-28**]  03:59 AM
                            [**2172-10-28**]  05:54 PM
                            [**2172-10-28**]  08:29 PM
                            [**2172-10-29**]  03:27 AM
                            [**2172-10-29**]  12:59 PM
                            [**2172-10-29**]  08:54 PM
                            [**2172-10-30**]  04:44 AM
   WBC
   14.2
   19.5
   14.4
   12.8
   11.4
   10.0
   10.9
   Hct
   34.6
   32.3
   27.3
   29.2
   26.8
   29.1
   26.9
   26.6
   26.0
   29.2
   Plt
   [**Telephone/Fax (2) 2337**]
   290
   Cr
   1.1
   1.2
   1.1
   1.2
   TropT
   0.04
   0.05
   0.05
   Glucose
   115
   110
   85
   123
   Other labs: PT / PTT / INR:14.6/28.6/1.3, CK / CKMB /
   Troponin-T:43/4/0.05, ALT / AST:30/30, Alk Phos / T Bili:49/0.9,
   Amylase / Lipase:119/22, Differential-Neuts:79.5 %, Lymph:11.0 %,
   Mono:7.8 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.8 g/dL,
   LDH:304 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   64 M with EtOH cirrhosis, PUD and multiple abdominal surgeries, and
   Afib, admit with upper GI bleed from anastamosis site also with
   microperforation of bowel admitted with chest pain in setting of a. fib
   with RVR  and found to have b/l subsegmental PEs.
   1.  PE/clots
 bil subsegmental PEs, +svc filter (and ivc filter) in
   place,  no anticoagulation right now due to recurrent GI bleeds, to be
   considered for future.
   - no anticoagulation for now, should be on in future (given bilat UE
   clotting, history of LE DVT, Afib)
   - outpt cancer screening
   2.  Cardiovascular/chest pain/afib
 now resolved, still in Afib in
   90s, brady (to 40s at times, asymptomatic) at night, CEs negative.
   - cont digoxin, lopressor 37.5 daily in AM, decrease to 25 in PM,
   adjust prn.
   - nitroglycerin prn SSCP
   - continue simvastatin
   - Intermittent NSVT; check [**Hospital1 **] lytes and maximize.
   3.  UGIB
 no transfusions since [**10-23**], [**10-28**] maroon stool with
   oscillating hct.  Repeat EGD [**10-29**] as above.
   -  PPI 40mg
   - surgery following
 conservative management
   - possible colonoscopy this admission, will f/u with liver team.
   4.  mesentery air - concern for [**Last Name (LF) 2332**], [**First Name3 (LF) 24**] surgery, perhaps
   related to scope trauma from OSH EGD.  Abd exam stable.
   - appreciate surgery recs.
   - cont fluconazole/zosyn for presumed 7d course, to end today.
   ICU Care
   Nutrition:
   Comments: clears ADAT
   Glycemic Control:
   Lines:
   PICC Line - [**2172-10-27**] 10:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor